US05686469
1-[2-(S)-Acetylamino-4-methylpentyl]-L-proline 4-Phenylbutylamide
Using the procedure described in Example 7, treatment of 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide (106 mg) with acetic anhydride (40 uL) provided 89 mg (83%) of the title compound. The 1H NMR and Mass spectrum analysis of this compound was consistent with the structure.

reactant | 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide | 106 mg | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)N)=O | C21H35N3O
reactant | acetic anhydride | 40 uL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[2-(S)-Acetylamino-4-methylpentyl]-L-proline 4-Phenylbutylamide | 89 mg, 83% | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)NC(C)=O)=O | C23H37N3O2
